US07534797B2
cis-3-[3-(Aminomethyl)cyclobutyl]-1-(2-phenylquinolin-7-yl) imidazo[1,5-a]pyrazin-8-amine
3-[3-(Azidomethyl)cyclobutyl]-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-8-amine (0.81 mmol, 360 mg) was dissolved in hot ethanol (15 mL) and charged with Lindlar catalyst (0.14 mmol, 362 mg). The reaction mixture was purged with N2, evacuated and filled with H2. The reaction mixture was stirred under H2 for 16 h. The suspension was filtered through celite and the solvent was removed under reduced pressure. Part of the crude material (200 mg out of 300 mg) was purified by silica gel flush chromatography (Jones Flashmaster, 5 g/70 mL cartridge) eluting with 3% MeOH (7 N NH3) in DCM. The final compound was recrystalized from EtOAc and hexane to generate the desired product as a light yellow solid; 1H NMR (400 MHz, CDCl3) δ 8.42-8.41 (m, 1H), 8.27 (dd, J=8.0 Hz, 0.4 Hz, 1H), 8.21-8.19 (m, 2H), 7.95-7.92 (m, 3H), 7.57-7.48 (m, 3H), 7.19 (d, J=4.0 Hz, 1H), 7.11 (d, J=4.0 Hz, 1H), 5.20 (b, 2H), 3.73-3.69 (m, 1H), 2.81 (d, J=7.2 Hz, 2H), 2.66-2.62 (m, 2H), 2.58-2.48 (m, 1H), 2.36-2.30 (m, 2H); MS (ES+): m/z 421.13 (40) [MH+]; HPLC: tR=1.69 min (OpenLynx, polar—5 min).

reactant | 3-[3-(Azidomethyl)cyclobutyl]-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-8-amine | 0.81 mmol, 360 mg | N(=[N+]=[N-])CC1CC(C1)C1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C26H22N8
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Lindlar catalyst | 0.14 mmol, 362 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | cis-3-[3-(Aminomethyl)cyclobutyl]-1-(2-phenylquinolin-7-yl) imidazo[1,5-a]pyrazin-8-amine | NC[C@H]1C[C@H](C1)C1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C26H24N6
